US07696352B2
5-Chloro-N-((1-(4-(2-(dimethylamino)-N-methylacetamido)phenyl)-1H-1,2,3-triazol-4-yl)methyl)thiophene-2-carboxamide (27)
5-Chloro-N-((1-(4-(methylamino)phenyl)-1H-1,2,3-triazol-4-yl)methyl)thiophene-2-carboxamide (34 mg, 0.1 mmol), prepared as shown in Example 17, was dissolved in 10 mL methanol and treated with MP-carbonate for 1 hr. The mixture was filtered and the filtrate was concentrated in vacuo. The residue was dissolved in 3 mL pyridine and N,N-dimethylglycine (16 mg, 0.1 mmol) was added. The mixture was then stirred in ice bath. POCl3 (28 μL, 0.3 mmol) was added. The reaction was stirred for 20 min and quenched with methanol. The mixture was concentrated and directly subjected to prep HPLC to isolate the title compound. MS found for C19H21ClN6O2S (M+H)+ 433.1, 435.1 (Cl pattern).

reactant | 5-Chloro-N-((1-(4-(methylamino)phenyl)-1H-1,2,3-triazol-4-yl)methyl)thiophene-2-carboxamide | 0.1 mmol, 34 mg | ClC1=CC=C(S1)C(=O)NCC=1N=NN(C1)C1=CC=C(C=C1)NC | C15H14ClN5OS
reactant | carbonate | C([O-])([O-])=O
reactant | N,N-dimethylglycine | 0.1 mmol, 16 mg | CN(CC(=O)O)C | C4H9NO2
reactant | POCl3 | 0.3 mmol, 28 μL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | methanol | 10 mL | CO | CH4O
product | 5-Chloro-N-((1-(4-(2-(dimethylamino)-N-methylacetamido)phenyl)-1H-1,2,3-triazol-4-yl)methyl)thiophene-2-carboxamide | ClC1=CC=C(S1)C(=O)NCC=1N=NN(C1)C1=CC=C(C=C1)N(C(CN(C)C)=O)C | C19H21ClN6O2S
